US07279467B2
101.2) N-(2,5-dimethoxyphenyl)cyclohexanecarbothioamide
1.46 g (5.54 mmol) of N-(2,5-dimethoxyphenyl)cyclohexanecarboxamide is put into solution in 40 ml of anhydrous toluene. The solution is taken to 100° C., and 3.34 g (8.26 mmol; 1.5 eq.) of Lawesson's reagent are added to the reaction medium which is then maintained under stirring at 100° C. for 4 hours. After returning to ambient temperature, the solution is poured into 50 ml of iced water and extracted using toluene. The organic phases are dried over magnesium sulphate and the solvent is evaporated off. The N-(2,5-dimethoxyphenyl)cyclohexanecarbothioamide is then purified by chromatography on a silica column (eluent: dichloromethane/heptane: 1/1 then 3/2). 1.26 g (yield=81%) of product is obtained in the form of yellow oil.

reactant | N-(2,5-dimethoxyphenyl)cyclohexanecarboxamide | 5.54 mmol, 1.46 g | COC1=C(C=C(C=C1)OC)NC(=O)C1CCCCC1 | C15H21NO3
reactant | Lawesson's reagent | 8.26 mmol, 3.34 g, 1.5 eq. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 50 ml | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,5-dimethoxyphenyl)cyclohexanecarbothioamide | 1.26 g, yield=81% | COC1=C(C=C(C=C1)OC)NC(=S)C1CCCCC1 | C15H21NO2S
